US08865712B2
d) Methanesulfonic acid 2-(2-bromo-5-fluoro-pyridin-4-yl)-2-hydroxy-propyl ester
To a suspension of 2-(2-bromo-5-fluoro-pyridin-4-yl)-propane-1,2-diol (17.45 g, 69.8 mmol) and triethylamine (19.45 ml, 14.12 g, 140 mmol) in DCM (350 ml) at 0° C. was added dropwise methanesulfonyl chloride (5.71 ml, 8.39 g, 73.3 mmol) over a period of 10 min. The reaction mixture was stirred at 0° C. for 30 min, then quenched with 1M aq. NaHCO3 soln. The phases were separated, the aq. phase was twice reextracted with DCM and the combined org. phases were washed with brine, dried over Na2SO4, filtered and concentrated. Flash chromatography on silica gel (gradient heptane: EtOAc 0-5 min 88:12, 5-37.5 min 24:76) yielded the title compound as a clear oil. HPLC RtH4=0.76 min; ESIMS: 328, 330 [(M+H)+]; 1H NMR (400 MHz, DMSO-d6): δ 8.22 (d, 1H), 7.82 (d, 1H), 4.58-4.47 (m, 2H), 3.04 (s, 3H), 3.00 (s, 1H), 1.64 (s, 3H).

reactant | 2-(2-bromo-5-fluoro-pyridin-4-yl)-propane-1,2-diol | 69.8 mmol, 17.45 g | BrC1=NC=C(C(=C1)C(CO)(C)O)F | C8H9BrFNO2
reactant | triethylamine | 140 mmol, 19.45 ml, 14.12 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 73.3 mmol, 5.71 ml, 8.39 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 350 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 2-(2-bromo-5-fluoro-pyridin-4-yl)-2-hydroxy-propyl ester | BrC1=NC=C(C(=C1)C(COS(=O)(=O)C)(C)O)F | C9H11BrFNO4S
